US08242271B2
Step-1: 6-Acryloylaminonaphthalene-2-carboxylic acid
To a stirred solution of 2-Amino-6-naphthoic acid (0.3 g, 1.6 mmol) in DMF (2 mL) and pyridine (0.3 mL) was added at 0° C., acryloyl chloride (0.15 g, 1.6 mmol). The resulting mixture was allowed to come to rt and stirred further for 2 h. After that it was poured in water (5 mL) and the solid separated was filtered and dried under reduced pressure to get the desired product (160 mg, 41.5%) as a pale brown solid. This solid was used in the next step without further purification.

reactant | 2-Amino-6-naphthoic acid | 1.6 mmol, 0.3 g | NC1=CC2=CC=C(C=C2C=C1)C(=O)O | C11H9NO2
reactant | acryloyl chloride | 1.6 mmol, 0.15 g | C(C=C)(=O)Cl | C3H3ClO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | pyridine | 0.3 mL | N1=CC=CC=C1 | C5H5N
solvent | water | 5 mL | O | H2O
product | 6-Acryloylaminonaphthalene-2-carboxylic acid | 160 mg, 41.5% | C(C=C)(=O)NC=1C=C2C=CC(=CC2=CC1)C(=O)O | C14H11NO3
